### PR TITLE
`Qround.v`: Add more rounding functions

### LINKED ISSUE #283: `QArith`: Add more rounding modes to complement `Qfloor` and `Qceiling`
Currently, `QArith` offers two ways to round `Q` values: [`Qfloor` and `Qceiling`](https://github.com/rocq-prover/stdlib/blob/3e47b26f345f36e375d81ade399eed0e310984b3/theories/QArith/Qround.v#L18-L19), which round toward negative and positive infinity, respectively. Besides these two definitions, there are other ways one could conceivably round a `Q` value:

* Truncation, i.e., rounding towards zero:

  ```rocq
  Definition Qtruncate (x:Q) :=
    if Qle_bool 0 x
      then Qfloor x
      else Qceiling x.
  ```

  Alternatively, this could be defined as:

  ```rocq
  Definition Qtruncate (x:Q) := let (n,d) := x in Z.quot n (Zpos d).
  ```
* Rounding towards the nearest integer, with ties broken away from zero:

  ```rocq
  Definition Qround_away (x:Q) :=
    if Qle_bool 0 x
      then Qfloor (x + 0.5)
      else Qceiling (x - 0.5).
  ```
* Rounding towards the nearest integer, with ties broken to even:

  ```rocq
  Definition Qround_to_even (x:Q) :=
    match Qcompare (Qminus x (inject_Z (Qfloor x))) 0.5 with
    | Lt => Qfloor x
    | Gt => Qceiling x
    | Eq => if Z.even (Qfloor x) then Qfloor x else Qceiling x
    end.
  ```

Would you be willing to upstream any of these definitions to `QArith`? My primary motivation for doing so is to have parity with all of the rounding modes defined in [SMT-LIB's FloatingPoint theory](https://smt-lib.org/theories-FloatingPoint.shtml). Currently, `QArith` has counterparts for `RTN` (`Qfloor`) and `RTP` (`Qceiling`), but not `RNE` (`Qround_to_even`), `RNA` (`Qround_away`), or `RTZ` (`Qtruncate`).

### PR DESCRIPTION
**Pull request by RyanGlScott**
This adds three additional rounding functions to `Qround.v` (`Qtruncate`, `Qround_away`, and `Qround_to_even`) to complement the existing `Qfloor` and `Qceiling` functions. It also proves some corresponding properties (e.g., that each function respects `<=`).

Fixes #283.

- [ ] Added **changelog**.
- [x] Added / updated **documentation**.

### CODE REVIEW

File: theories/QArith/Qround.v [hunk 1]
```diff
@@ -148,3 +453,227 @@ Proof.
    rewrite <- (Z.opp_involutive (Zpos p)).
    now rewrite Zdiv_opp_opp.
 Qed.
+
+(** Properties about how [Qfloor] and [Qceiling] interact with [Qplus] *)
+
+Lemma Qfloor_add_Z_r : forall (x:Q) (z:Z), Qfloor (x + inject_Z z) = (Qfloor x + z)%Z.
```
Comment (RyanGlScott) [inline theories/QArith/Qround.v:459]: Note that this property (and the related properties below) are all defined at the bottom of the file so that their proofs can take advantage of `Qfloor_comp` and `Qceiling_comp`. If you'd prefer, I can rearrange these proofs, although I may need to inline some of the details of `Q{floor,ceiling}_comp` to accommodate this.

File: theories/QArith/Qround.v [hunk 2]
```diff
@@ -148,3 +453,227 @@ Proof.
...
+    apply Qfloor_resp_le.
+    apply Qlt_le_weak.
+    destruct (Qfloor_frac_part_bounds x) as [_ Hbounds].
+    now apply (Qplus_lt_compat _ _ _ _ Hbounds).
+- apply (Qceiling_resp_le (x - 0.5) x).
+  rewrite <- (Qplus_0_r x) at 2.
+  now apply (Qplus_le_compat _ _ _ _ (Qle_refl x)).
+Qed.
+
+Lemma Qround_to_even_resp_le : forall x y, x <= y -> (Qround_to_even x <= Qround_to_even y)%Z.
```
Comment (RyanGlScott) [inline theories/QArith/Qround.v:549]: The implementation of this proof is particularly verbose. If you have ideas on how to make this cleaner, I'd love to hear them!

**Comment by RyanGlScott** [comment]
Would anyone be able to give this a review (@andres-erbsen, perhaps)?
